US08980877B2
(±)-(E)-3-{1′-Benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (120 mg, 0.25 mmol) in DCM (7 ml) was treated with 4 M HCl in dioxane (1.0 ml) as described in Example 30, STEP C to give (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-hydroxy-acrylamide (80 mg, hydrochloride salt) as a white solid.

reactant | (±)-(E)-3-{1′-Benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.25 mmol, 120 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C27H31N3O5
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
product | (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-hydroxy-acrylamide | 80 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)NO | C22H23N3O4
